US05244889
3-t-Butoxycarbonylmethyl-10-hydroxymethyl-2-oxo-1-azacyclodecane (0.50 g, 1.67 mmol) is dissolved in acetone (5.0 mL) and benzene (5.0 mL). Triethylamine (0.26 mL, 1.9 mmol) is added, followed by 2-fluoro-1-methylpyridinium toluene-4-sulfonate (0.54 g, 1.9 mmol), and the reaction is stirred at room temperature for 90 minutes. Thiolacetic acid (0.14 mL, 1.9 mmol) and more triethylamine (0.26 mL, 1.9 mmol) are added, and the reaction is heated to reflux for 2 hours. The solvent is then removed, the crude product is partitioned between methylene chloride and water, and the aqueous phase is extracted several times with methylene chloride. The combined organic layers are dried (MgSO4) and the solvent is evaporated. The crude product is purified by silica gel chromatography (15% ethyl acetate/hexane) to give 10-(acetylthiomethyl)-3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane, MS: M+1=358.

reactant | 3-t-Butoxycarbonylmethyl-10-hydroxymethyl-2-oxo-1-azacyclodecane | 1.67 mmol, 0.50 g | C(C)(C)(C)OC(=O)CC1C(NC(CCCCCC1)CO)=O | C16H29NO4
reactant | Triethylamine | 1.9 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-1-methylpyridinium toluene-4-sulfonate | 1.9 mmol, 0.54 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.FC1=[N+](C=CC=C1)C
reactant | Thiolacetic acid | 1.9 mmol, 0.14 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triethylamine | 1.9 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 5.0 mL | CC(=O)C | C3H6O
solvent | benzene | 5.0 mL | C1=CC=CC=C1 | C6H6
product | 10-(acetylthiomethyl)-3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane | C(C)(=O)SCC1CCCCCCC(C(N1)=O)CC(=O)OC(C)(C)C | C18H31NO4S
